US06268391B1
3-(3,5-Dichloro4-hydroxy-benzylidene)-5-(3-methyl-butanoyl)-1,3-dihydro-indol-2-one
The title compound was synthesized in an identical manner to example 2 except 5-(3-methyl-butanoyl)-1,3-dihydro-indol-2-one was used in place of 5-(2methyl-thiazol4-yl)- 1,3-dihydro-indol-2-one and 3,5-dichloro-4-hydroxy-benzaldehyde was used in place of 3,5-bromo-4-hydroxy-benzaldehyde. 1H NMR (DMSO-d6): δ11.05 (s, 1H); 10.99 (s, 1H1); 8.63 (s, 1H); 8.28 (s, 1H); 7.92 (s, 1H); 7.85 (d, J=8.2, 1H); 7.77 (s, 1H); 6.89 (d, J=8.2, 1H); 2.84 (d, J=6.8, 2H); 2.21-2.08 (m, 1H); 0.92 (d, J=6.8, 6H). ESI-MS: m/z 388 (m−H)−.

reactant | 5-(3-methyl-butanoyl)-1,3-dihydro-indol-2-one | CC(CC(=O)C=1C=C2CC(NC2=CC1)=O)C | C13H15NO2
reactant | 3,5-dichloro-4-hydroxy-benzaldehyde | ClC=1C=C(C=O)C=C(C1O)Cl | C7H4Cl2O2
product | 3-(3,5-Dichloro4-hydroxy-benzylidene)-5-(3-methyl-butanoyl)-1,3-dihydro-indol-2-one | ClC=1C=C(C=C2C(NC3=CC=C(C=C23)C(CC(C)C)=O)=O)C=C(C1O)Cl | C20H17Cl2NO3
